US05298632
0.84 Gram of 2-(1,3-dioxan-2-yl)ethyl salicylate and 0.73 g of 4,6-dimethoxy-2-methylsulfonylpyrimidine was dissolved in 10 ml of N,N-dimethylformamide, and 0.51 g of anhydrous potassium carbonate was added thereto. The resulting solution was stirred at 100° to 110° C. for 1 hour. The reaction solution was allowed to cool, poured into diluted hydrochloric acid, and extracted with ethyl acetate. The organic layer separated from the aqueous layer was washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue obtained was subjected to silica gel column chromatography (mfd. by Merck & Co., Inc., solvent: chloroform) to obtain 0.50 g of 2-(1,3-dioxan-2-yl)ethyl 2-(4,6-dimethoxypyrimidin-2-yl)oxybenzoate [present compound (V-1)].

reactant | 2-(1,3-dioxan-2-yl)ethyl salicylate | C(C=1C(O)=CC=CC1)(=O)OCCC1OCCCO1 | C13H16O5
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 0.73 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(1,3-dioxan-2-yl)ethyl 2-(4,6-dimethoxypyrimidin-2-yl)oxybenzoate | 0.50 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCCC2OCCCO2)C=CC=C1 | C19H22N2O7
